US07863291B2
Ethyl 5-chlorothiazolo[5,4-d]pyrimidin-2-ylcarbamate (300 mg, 1.16 mmol) was suspended in a 2.0 M solution of dimethylamine in methanol (5.0 mL, 10.00 mmol) in a pressure vessel, which was sealed and heated overnight on a 75° C. oil bath. The mixture was cooled to ambient temperature, the solvent was evaporated and the residue was partitioned between aqueous bicarbonate and chloroform and extracted 3 times. The combined organics were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford ethyl 5-(dimethylamino)thiazolo[5,4-d]pyrimidin-2-ylcarbamate (236 mg, 99% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.97 (s, 1H) 8.67 (s, 1H) 4.26 (q, J=7.03 Hz, 2H) 3.17 (s, 6H) 1.16-1.40 (m, 3H). MS (LC/MS) R.T.=1.88; [M+H]+=268.09.

reactant | Ethyl 5-chlorothiazolo[5,4-d]pyrimidin-2-ylcarbamate | 1.16 mmol, 300 mg | ClC=1N=CC2=C(N1)SC(=N2)NC(OCC)=O | C8H7ClN4O2S
reactant | dimethylamine | CNC | C2H7N
reactant | methanol | 10.00 mmol, 5.0 mL | CO | CH4O
product | ethyl 5-(dimethylamino)thiazolo[5,4-d]pyrimidin-2-ylcarbamate | 236 mg, 99% yield | CN(C=1N=CC2=C(N1)SC(=N2)NC(OCC)=O)C | C10H13N5O2S
